US08211402B2
A solution of tert-butyl 8-aminooctylcarbamate (1.61 g, 6.588 mmol), 2-pyridinecarboxaldehyde (0.63 mL, 6.588 mmol) and AcOH (0.10 mL) in DCE (30 mL) was heated at 75° C. for 30 min under nitrogen. The reaction mixture was cooled to 0° C., and treated sequentially with NaBH(OAc)3 (3.708 g, 17.5 mmol) and tert-butyl glyoxalate (1.53 g)1. The reaction mixture was stirred at room temperature overnight and quenched with water. The reaction mixture was then extracted with DCM and the organic layers was dried and concentrated under reduced pressure. The residue was purified by flash chromatography over silica gel to afford tert-butyl 2-((8-(tert-butoxycarbonylamino)octyl)(pyridin-2-ylmethyl)amino)acetate (1.71 g, 58%) as a yellow oil. 1H NMR (400 MHz, CD3Cl3) δ 8.52 (d, J=4.8 Hz, 1H), 7.65 (td, J=7.8, 1.6 Hz, 1H), 7.56 (d, J=7.6, 1H), 7.18-7.12 (m, 1H), 4.50 (s, 1H), 3.90 (s, 2H), 3.28 (s, 2H), 3.07 (q, J=6.3 Hz, 2H), 2.61 (t, J=7.6 Hz, 2H), 1.50-1.24 (m, 30H); ESMS m/z: 450.4 (M+H)+.

reactant | tert-butyl 8-aminooctylcarbamate | 6.588 mmol, 1.61 g | NCCCCCCCCNC(OC(C)(C)C)=O | C13H28N2O2
reactant | 2-pyridinecarboxaldehyde | 6.588 mmol, 0.63 mL | N1=C(C=CC=C1)C=O | C6H5NO
reactant | NaBH(OAc)3 | 17.5 mmol, 3.708 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | tert-butyl glyoxalate | 1.53 g | C(C=O)(=O)OC(C)(C)C | C6H10O3
solvent | DCE | 30 mL | ClCCCl | C2H4Cl2
solvent | AcOH | 0.10 mL | CC(=O)O | C2H4O2
product | tert-butyl 2-((8-(tert-butoxycarbonylamino)octyl)(pyridin-2-ylmethyl)amino)acetate | 1.71 g, 58% | C(C)(C)(C)OC(=O)NCCCCCCCCN(CC(=O)OC(C)(C)C)CC1=NC=CC=C1 | C25H43N3O4
